* POGO block-7 HP — I_ref leg trim AUTHORITY  [NV]
* CLAIM: the I_ref network R_IREF_A (R109, 1MΩ fixed) + RV_REF (RV16, 500kΩ rheostat) gives
*   R_total ∈ [1000k, 1500k] as RV sweeps 0..500k, and the f_ref=632Hz calibration setpoint
*   (Iabc ≈ 9.69µA, R_total ≈ 1238k, ~47.6% pot travel) sits INSIDE 20–80% of the pot range.
* [NV] — the absolute I_ref in µA is THAT340-bias-dependent (V_ref / V_BE), so this deck checks
*   the R_total RANGE / trim authority (that the calibration target is reachable), NOT the
*   absolute Iabc. (aux-expo-converter §"Trim Pots": R_total range 1000k–1500k, all block targets
*   within 20–80% travel; block-7 target 9.69µA at 0V CV -> RV_REF ≈ 238k.)
* Model: 3 PARALLEL instances. R_total = R109(1M) + RV16 (0 / 238k / 500k). Drive 1V through
*   R_total to a 0V sense source; R_total_k = 0.001/i(Vsense) reads R_total directly in kΩ.

* --- RV_REF = 0 (CCW end): R_total = 1000k ---
V1 a 0 DC 1
Rlo a nlo 1000000
Vlo nlo 0 DC 0

* --- RV_REF = 238k (the 9.69µA f_ref=632Hz setpoint, ~47.6% travel): R_total = 1238k ---
V2 b 0 DC 1
Rmid b nmid 1238000
Vmid nmid 0 DC 0

* --- RV_REF = 500k (CW end): R_total = 1500k ---
V3 c 0 DC 1
Rhi c nhi 1500000
Vhi nhi 0 DC 0

.control
  op
  let rtot_lo_k  = 0.001/i(Vlo)        ; R109 + RV16=0      -> 1000 k
  let rtot_mid_k = 0.001/i(Vmid)       ; R109 + RV16=238k   -> 1238 k (setpoint)
  let rtot_hi_k  = 0.001/i(Vhi)        ; R109 + RV16=500k   -> 1500 k
  print rtot_lo_k rtot_mid_k rtot_hi_k
.endc
.end
